Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain, headache.
 
Major Surgical or Invasive Procedure:
Stress MIBI.

 
History of Present Illness:
This is a ___ yof with hx of Stroke, DM II diet controlled, HTN, 
Hypercholesterolemia, Cervical Radiculopathy who presents from 
home chest pain. Patient reports she had an episdode of ___ 
"chest pressure" today while she was reading a magazine. The 
episode lasted for about 45 minutes and was not relieved with 
NTG given by EMS. +nausea but no vomiting. She denies SOB, 
palpitations or radiating pain with this episode. She has had 2 
similar episodes in the last two weeks. She has history of GERD 
in the past and stopped her Protonix because she was feeling 
better. She started the Protonix because she had similar 
episodes of chest pain a few years ago. The only difference is 
the her current episodes are more severe. She denies any recent 
chest burning, nightime cough but she does have an occasional 
sour taste in her mouth. She also reports an episode of 'shaking 
chills' today along with a ___ frontal headache. Headache was 
associated with some body weakness and patient was worred she 
was having another stroke. EMS was called and she came to ___ ED. 
She denies any recent fevers, sweats, cough, abdominal pain, 
diarrhea, dysuria, urinary frequency or hematuria. While in the 
ED, the patient was noted to have gait difficulty. No vision 
complaints. Neurology was consulted and symptoms resolved on 
their examination. CT Head was performed and was similar to 
prior dated ___. The patient and her daughter report that she 
gets right sided weakness occasionally as a result of her prior 
CVA. Currently, she denies any weakness or numbness.  
In the ED: Temp 98.3, BP 132/63, HR 102, RR 20, 100% NRB. She 
was given ASA 325mg x 1 and NS 1 Liter bolus. Neurology was 
consulted as above for transient right sided weakness. She was 
admitted for ___.
 
Past Medical History:
CVA x 4 with residual mild right sided weakness  
Diabetes Mellitus Type II, diet controlled  
Hypertension  
Hypercholesterolemia  
Gastroesophageal Reflux Disease  
Cervical radiculopathy  
Diverticulitis
 
Social History:
___
Family History:
1. brother - died late ___ w/ CVA
2. brother - died lung ca (smoker)
No hx of MI in first degree relative
Mother with HTN
 
Physical Exam:
VS: Temp 97.3, BP 108/61, HR 76, RR 20, 97% RA  
GEN: Elderly in NAD, awake, alert  
HEENT: EOMI, PERRL, sclera anicteric, conjunctivae clear, OP 
moist and without lesion  
NECK: Supple, no JVD  
CV: Reg rate, normal S1, S2. No m/r/g.  
CHEST: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND  
EXT: No c/c/e  
SKIN: No rash  
Neuro: CN II-XII intact, ___ strenght right arm extension, ___ 
strenght right leg extension, ___ strenght remaining 
extremities, sensation intact, +brisk patellar reflex, other 
reflexes normal, Gait unstable on right side on walking, no 
pronator drift, no intention tremor, no ataxia  

 
Pertinent Results:
On Admission:
___ 03:20PM   WBC-11.6* RBC-4.47 HGB-12.6 HCT-37.4 MCV-84 
MCH-28.3 MCHC-33.8 RDW-14.6
___ 03:20PM   NEUTS-91.7* LYMPHS-6.5* MONOS-0.7* EOS-0.8 
BASOS-0.2
___ 03:20PM   PLT COUNT-279
___ 03:20PM   GLUCOSE-116* UREA N-16 CREAT-1.2* SODIUM-140 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-28 ANION GAP-14
___ 03:20PM   CK(CPK)-81
___:20PM   CK-MB-NotDone
___ 03:20PM   cTropnT-0.02*
___ 03:20PM   ___ PTT-25.2 ___
___ 08:40PM URINE  ___ BACTERIA-MOD YEAST-NONE 
___ 08:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-TR
___ 08:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
.
CT head ___:
No intracranial hemorrhage or evidence of acute major vascular 
territorial infarct. Chronic microvascular ischemic changes 
reidentified in the periventricular white matter.
.
Stress MIBIL:
Limited exercise tolerance. No anginal type symptoms or ischemic 
ECG changes seen at workload achieved. Nuclear report sent 
separately.
1. Normal myocardial perfusion. 2. Calculated LVEF is 63%. 

 
Brief Hospital Course:
___ yof with hx of Stroke, DM II diet controlled, HTN, 
Hypercholesterolemia, Cervical Radiculopathy who presents from 
home with chest pain associated with shaking chills and 
headache.  
.  
# Chest Pain: Chest pain was concerning for ACS as she felt 
"chest pressure" along with nausea and it lasted for 45 minutes. 
Patient had negative cardiac enzymes x3 and serial ECG without 
any changes. Patient was continued on her PPI for history of 
GERD. Due to the concern with multiple risk factors and history, 
patient had a stress MIBI that showed good HR of 137 (93% of 
max) with product of ___, which does not suggest active 
ischemia. However, her prognostic value was poor with 6:30 on a 
Gervino protocol with ___ MTS. Patient did not have any 
abnormalities on telemetry and is on tripple anti-platelet 
therapy with aggrenox and plavix for her stroke that will 
decrease her cardiovascular risk as well. Patient was continued 
in her outpatient statin and ___. Will recommend starting 
beta-blocker as outaptient; it was not started in house to 
assess her neurologic status in the question of acute stroke and 
severe headache.
.  
# Right Sided Weakness: Patient with prior history of CVA. 
Patient had transient weakness today and was evaluated by Neuro 
in the ED. CT Head was negative and symptoms have now resolved. 
Patient and daughter report occasional right sided fatigue s/p 
her prior CVA. She uses a can at baseline for ambulation. Due to 
her prior strokes patient is in an atypical regimen with 
aggrenox and plavix suggested by neurology. 
.  
# Headache: Patient had episode of Headache today along with her 
chest pain and weakness. She has history of headaches similar to 
this. Most likely etiology is her cervical spine disease. 
Conservative measurements with ice-packs, soft collar and 
tylenol were done.
.  
# Shaking chills: Patient with episode of shaking chills. 
Afebrile since arrival but she does have a slightly elevated WBC 
at 11.6. No signs of infection by history or exam. UA with Mod 
bacteria but without pyuria. She was treated with a 3-day course 
of ciprofloxacin to complete at home.
.  
# HTN: cont home Diovan; meeting ___-7 criteria while in 
hospital. 
.  
# DM II: diet controlled. Patient was put in ISS with minimal 
requirements and blood sugars 100-200 range.
.  
# Depression: cont home sertraline.  
.  
# FEN: Cardiac, diabetic diet.
.  
# Access: PIV.
.  
# PPx: heparin SC, bowel regimen.
.  
# Code: FULL CODE.
.  
# Dispo: Home with PCP follow up.  
.  
# Comm: With patient.

 
Medications on Admission:
Plavix 75mg daily  
Aggrenox 25mg-200mg cap BID  
Folic Acid  
Crestor 40mg qHS  
Sertraline 25mg daily  
Diovan 80mg BID  
Calcium/Vit D  
Protonix 40mg daily  
Vit B12  
Colace  
Fish Oil
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Rosuvastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Valsartan 80 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed.  
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Four (4) 
Tablet PO DAILY (Daily).  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
10. Cyanocobalamin 500 mcg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
11. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 2 days.
Disp:*4 Tablet(s)* Refills:*0*
12. Sertraline 25 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Fish Oil 1,000 mg Capsule Sig: One (1) Capsule PO once a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Stable Coronary Artery Disease
Cervicalgia
.
Secondary Diagnsis:
CVA x 4 with residual mild right sided weakness  
Diabetes Mellitus Type II, diet controlled  
Hypertension  
Hypercholesterolemia  
Gastroesophageal Reflux Disease  

 
Discharge Condition:
Stable, pain free, walking, tolerating diet.

 
Discharge Instructions:
You were seen at ___ for chest pain. We were concern about 
your heart and did some blood test, serial ECGs, heart monitor 
(telemetry) and stress test that were all negative. This rules 
you out as having an acute heart attack and puts you at low risk 
from having one soon. We are sending you home with follow up 
with your PCP.
.
You also have a headache and because of that you were seen by 
the neurology stroke service who did not think you were having a 
stroke. You had a CT scan that did not show any bleeding. Your 
signs and symptoms are compatible with your cervical lessions 
and we recommend conservative management with cold and pain 
medication (Tylenol) as well as PCP follow up.
.
You were found to have a urinary tract infection and will need 
to complete 3 days of antibiotics (ciprofloxacin). See attached 
prescription.
.
Your medications were left unchanged.
.
If you notice any worsening in your weakness, new problems while 
talking, facial droop, worsening of your chest pain or that it 
last more than 15 minutes associated with sweating, bleeding or 
anything else that concerns you please come back to the ER ASAP.
.
Please follow up as below.
 
Followup Instructions:
___